US08012956B2
4-(Methoxycarbonyl)-2,5-dimethyl-3-nitrobenzoic acid (9.5 mmol) was suspended in dichloromethane (30 mL) and N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (1.82 g, 9.5 mmol) and 4-dimethylaminopyridine (1.16 g, 9.5 mmol) were added. The mixture was stirred at ambient temperature for 0.5 h. tert-Butanol (6 mL, 64 mmol) was added and the mixture was stirred for 15.5 h. tert-Butanol (20 mL, 213 mmol) was added and the mixture was stirred at reflux for 1 h. The dichloromethane was removed and the mixture was stirred at 75° C. for 21 h. Triethylamine (1.3 mL, 9.3 mmol) and diphenylphosphoryl chloride (1.96 mL, 9.5 mmol) were added and the mixture was stirred at 75° C. for 6 h. The mixture was cooled to ambient temperature and then was concentrated. The residue was partitioned between ethyl acetate and 1N hydrochloric acid. The organic portion was washed with 1N sodium hydroxide, brine, dried over sodium sulfate, then filtered and concentrated to afford an orange semi-solid which was purified by column chromatography (silica gel, 5-15% ethyl acetate in hexanes) to afford crude 1-tert-butyl 4-methyl 2,5-dimethyl-3-nitroterephthalate (1.98 g, 6.4 mmol, 68% yield) as a colorless oil. 1H NMR (400 MHz, CDCl3): δ 7.69 (s, 1H), 3.88 (s, 3H), 2.45 (s, 3H), 2.44 (s, 3H), 1.60 (s, 9H); GCMS for C15H19NO6: 309 (M+).

reactant | 4-(Methoxycarbonyl)-2,5-dimethyl-3-nitrobenzoic acid | 9.5 mmol | COC(=O)C1=C(C(=C(C(=O)O)C=C1C)C)[N+](=O)[O-] | C11H11NO6
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 9.5 mmol, 1.82 g | Cl.CN(CCCN=C=NCC)C
reactant | tert-Butanol | 64 mmol, 6 mL | C(C)(C)(C)O | C4H10O
reactant | tert-Butanol | 213 mmol, 20 mL | C(C)(C)(C)O | C4H10O
reactant | Triethylamine | 9.3 mmol, 1.3 mL | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl chloride | 9.5 mmol, 1.96 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)Cl | C12H10ClOP
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 9.5 mmol, 1.16 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 1-tert-butyl 4-methyl 2,5-dimethyl-3-nitroterephthalate | 6.4 mmol, 1.98 g, 68% yield | CC1=C(C(=O)OC(C)(C)C)C=C(C(=C1[N+](=O)[O-])C(=O)OC)C | C15H19NO6
